US04232032
A mixture of 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin-8-carbonyl chloride (2.0 g.) concentrated ammonia (10 ml.) and ethanol (10 ml.) was heated under reflux for 2 hours. A complete solution was not obtained, but the reaction mixture was cooled and filtered, and the solid product was washed with ethanol and dried, to give 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin-8-carboxamide, m.p. 281°-283° C.

reactant | 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin-8-carbonyl chloride | 2.0 g | CC=1C=C(C2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)C(=O)Cl | C12H7Cl7O3
reactant | ammonia | 10 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-methyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin-8-carboxamide | CC=1C=C(C2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)C(=O)N | C12H9Cl6NO3
